US05900327
Synthesis of 9-hexyl-9-(5-cyano-5-methlhexyl)-fluorene:
2.4 g of butyllithium dissolved in 15 ml of hexane was slowly added during 5 minutes into 6.0 g of fluorene dissolved in 40 ml of anhydrous tetrahydrofuran at -50° C. under nitrogen protection. The mixture was stirred at -30 to 15° C. for 1 hour before it was cooled again to -40 ~-50° C. Then, 6.0 g of 1-bromohexane was added in 5 minutes. The mixture was subsequently stirred for 2 hours while the temperature was gradually increased to room temperature. The mixture was then cooled to -50° C., and 2.4 g of butyllithium dissolved in 15 ml of hexane was slowly added in 5 minutes under nitrogen protection. The mixture was stirred at -30 to 15° C. for 1 hour before it was cooled again to -40~-50° C. Then, 7.6 g of 6-bromo-2,2-dimethylhexanenitrile was added in 5 minutes. The mixture was subsequently stirred for 15 hours at room temperature, dispersed in water, and extracted with ether. The etheral solution was washed with water and brine, dried with magnesium sulfate, and evaporated. The residue was distilled to collect 12.4 g (92%) of light yellow liquid. MS (m/z): 373 (M+), 288, 249, 217, 191, 179, 165.

reactant | butyllithium | 2.4 g | C(CCC)[Li]
reactant | fluorene | 6.0 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 1-bromohexane | 6.0 g | BrCCCCCC | C6H13Br
reactant | butyllithium | 2.4 g | C(CCC)[Li]
reactant | 6-bromo-2,2-dimethylhexanenitrile | 7.6 g | BrCCCCC(C#N)(C)C | C8H14BrN
solvent | hexane | 15 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | 15 ml | CCCCCC | C6H14
solvent | water | O | H2O
product | 9-hexyl-9-(5-cyano-5-methlhexyl)-fluorene | C(CCCCC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCC(C)(C)C#N | C27H35N
